US06245790B1
To a solution of ethyl (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetate (0.5 g) in tetrahydrofuran (5 ml) was added NH3 (5 ml, 4N methanol solution). After being stirred for 24 hours, the solvent was removed. The residue was purified by chromatography on silica gel to give (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetamide (220 mg).

reactant | ethyl (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetate | 0.5 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C32H31NO4
reactant | NH3 | 4N, 5 ml | N | H3N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetamide | 220 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(OCC(=O)N)C=CC1 | C30H28N2O3
